US07420001B2
To 220 mg (0.67 mmol) of 5-bromo-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester was added 0.42 mL (6.7 mmol) of iodomethane, 185 mg (1.34 mmol) of K2CO3 and 2 mL of DMF. The mixture was stirred at room temperature over night. The mixture was washed with brine and extracted with ethyl acetate. The combined ethyl acetate layers were washed with brine. Removal of the solvent gave 230 mg (100% yield) of 5-bromo-4-methoxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester as a colorless oil.

reactant | 5-bromo-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 0.67 mmol, 220 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)Br)O | C14H15BrO4
reactant | iodomethane | 6.7 mmol, 0.42 mL | IC | CH3I
reactant | K2CO3 | 1.34 mmol, 185 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-bromo-4-methoxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 230 mg, 100% yield | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)Br)OC | C15H17BrO4
